US04611060
A solution of methyl isocyanate (6 g) in acetonitrile (10 ml) was added dropwise to a solution of 4-aminophenol (10.9 g) in N,N-dimethylformamide (50 ml) at 10° C. to 20° C. The mixture was stirred at 25° C. to 35° C. for 12 hours and evaporated under reduced pressure. Water (100 ml) was added to the resulting syrup and the mixture was stirred for 30 minutes. The mixture became thick in the course of stirring. The solid substance was collected by filtration, washed with cold water and recrystallized from aqueous alcohol to give 8.6 g of N-(4-hydroxyphenyl)-N'-methylurea of melting point 169°-171° C.

reactant | methyl isocyanate | 6 g | CN=C=O | C2H3NO
reactant | 4-aminophenol | 10.9 g | NC1=CC=C(C=C1)O | C6H7NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(4-hydroxyphenyl)-N'-methylurea | 8.6 g | OC1=CC=C(C=C1)NC(=O)NC | C8H10N2O2
